US06403607B1
2-(4-Chlorophenoxy)nitrobenzene
2-Fluoronitrobenzene (1.5 g) and 4-chlorophenol (1.3 g) were dissolved in dimethylformamide (20 ml) and potassium carbonate (1.4 g) was added thereto. The mixture was stirred overnight at 80° C. After the mixture was cooled, water (100 ml) was added thereto and the mixture was extracted with ethyl acetate (50 ml×2). The mixture was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was re-crystallized from methanol, to thereby yield the target compound (2.2 g) as pale-yellow crystals.

reactant | 2-Fluoronitrobenzene | 1.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chlorophenol | 1.3 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenoxy)nitrobenzene | 2.2 g | ClC1=CC=C(OC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C12H8ClNO3
